US05317016
To a solution of (2S,4S)-1-p-nitrobenzyloxycarbonyl-2-phthalimidomethyl-4-tritylthiopyrrolidine (10.46 g: 15.31 mmole) in a mixture of dichloromethane (80 ml) and methanol (160 ml), hydrazine hydrate (1.53 ml: 2 eq.) is added, and the mixture is concentrated to remove dichloromethane by warming and refluxed for 3 hours and 15 minutes. The reaction mixture is concentrated in vacuo. The residue is diluted with dichloromethane and filtered to remove solid. The filtrate is washed with water, dried over magnesium sulfate, and concentrated in vacuo to give crude (2S,4S)-1-p-nitrobenzyloxycarbonyl-2-aminomethyl-4-tritylthiopyrrolidine (7.71 g). Yield: 91%. NMR δ(CDCl3 :CD3OD=2:1) ppm: 1.46 to 3.76(m, 10H), 5.04, 5.12(ABq, J=15 Hz, 2H), 7.10 to 7.56(m, 17H), 8.12 to 8.30(m, 2H). IR ν (CHCl3) cm-1 : 1695, 1606.

reactant | (2S,4S)-1-p-nitrobenzyloxycarbonyl-2-phthalimidomethyl-4-tritylthiopyrrolidine | 15.31 mmole, 10.46 g | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@@H](C2)SC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)CN2C(C=3C(C2=O)=CC=CC3)=O)C=C1 | C40H33N3O6S
reactant | hydrazine hydrate | 1.53 ml, 2 eq. | O.NN
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
solvent | methanol | 160 ml | CO | CH4O
product | (2S,4S)-1-p-nitrobenzyloxycarbonyl-2-aminomethyl-4-tritylthiopyrrolidine | 7.71 g, Yield: 91% | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@@H](C2)SC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)CN)C=C1 | C32H31N3O4S
